US07598391B2
3-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid methyl ester
Prepared as described in general procedure (D) using 3-(5-bromo-thiazol-2-yl)-1,1-dicyclohexyl-urea and 3-mercaptopropionic acid methyl ester.

reactant | 3-(5-bromo-thiazol-2-yl)-1,1-dicyclohexyl-urea | BrC1=CN=C(S1)NC(N(C1CCCCC1)C1CCCCC1)=O | C16H24BrN3OS
reactant | 3-mercaptopropionic acid methyl ester | COC(CCS)=O | C4H8O2S
product | 3-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid methyl ester | COC(CCSC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C20H31N3O3S2
